US09359549B2
Synthesis of 2-chloro-5-(2-methoxyphenyl)pyridin-4-amine
Potassiumphosphate (18.28 g, 79 mmol), triphenyl phosphine (1.04 g, 3.97 mmol), 2-chloro-5-iodo-4-aminopyridine (10.1 g, 39. mmol), 2-methoxybenzeneboronic acid (8.44 g, 55.57 mmol) and palladium acetate (0.45 g, 1.98 mmol) were sequentially added to degassed acetonitrile (300 mL) and water (100 mL) under nitrogen. The reaction mixture was heated at 75° C. for overnight, then cooled to room temperature. The organic layer was separated and aqueous layer and was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated and performed column chromatography using hexanes and ethyl acetate as eluent. 7.5 g of title compound was isolated.

reactant | Potassiumphosphate | 79 mmol, 18.28 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triphenyl phosphine | 3.97 mmol, 1.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloro-5-iodo-4-aminopyridine | 10.1 g | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | 2-methoxybenzeneboronic acid | 55.57 mmol, 8.44 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
catalyst | palladium acetate | 1.98 mmol, 0.45 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-5-(2-methoxyphenyl)pyridin-4-amine | 7.5 g | ClC1=NC=C(C(=C1)N)C1=C(C=CC=C1)OC | C12H11ClN2O
